US07598391B2
4-[3-[5-(4-Dimethylsulfamoyl-piperazin-1-ylmethyl)-thiazol-2-yl]-1-(4-methylcyclohexyl)-ureido]-piperidine-1-carboxylic acid tert-butyl ester
Prepared as described in general procedure (P) using 4-[3-(5-formyl-thiazol-2-yl)-1-(4-methyl-cyclohexyl)-ureido]-piperidine-1-carboxylic acid tert-butyl ester (202 mg, 0.45 mmol), piperazine sulfonic acid dimethylamide hydrochloride (132 mg, 0.58 mmol), triethyl amine (80 μL, 0.58 mmol) and sodium triacetoxyborohydride (118 mg, 0.53 mmol) to afford 110 mg (39%) of the desired product after purification.

reactant | 4-[3-(5-formyl-thiazol-2-yl)-1-(4-methyl-cyclohexyl)-ureido]-piperidine-1-carboxylic acid tert-butyl ester | 0.45 mmol, 202 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C(=O)NC=1SC(=CN1)C=O)C1CCC(CC1)C | C22H34N4O4S
reactant | piperazine sulfonic acid dimethylamide hydrochloride | 0.58 mmol, 132 mg | Cl.CN(S(=O)(=O)N1CCNCC1)C
reactant | triethyl amine | 0.58 mmol, 80 μL | C(C)N(CC)CC | C6H15N
reactant | sodium triacetoxyborohydride | 0.53 mmol, 118 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 4-[3-[5-(4-Dimethylsulfamoyl-piperazin-1-ylmethyl)-thiazol-2-yl]-1-(4-methylcyclohexyl)-ureido]-piperidine-1-carboxylic acid tert-butyl ester | 110 mg, 39% | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C(=O)NC=1SC(=CN1)CN1CCN(CC1)S(N(C)C)(=O)=O)C1CCC(CC1)C | C28H49N7O5S2
